US09387200B2
a) 3-(4-Chloro-phenyl)-7-ethynyl-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester
To a solution of 3-(4-chloro-phenyl)-4-hydroxy-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester (0.189 mmol) in EtOH/CH2Cl2 (1/1, 0.76 mL) was added Cs2CO3 (0.227 mmol) with stirring at r.t. After 16 h the mixture was partitioned between 1N HCl (10 mL) and EtOAc (10 mL). The aqueous phase was extracted with EtOAc (2×10 mL). The combined organic layers were washed with brine and water, dried over MgSO4 and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with 0-20% EtOAc/CH2Cl2, to give the title compound (38 mg) as a white solid: MS (m/z) 357.0 (M−1).

reactant | 3-(4-chloro-phenyl)-4-hydroxy-7-trimethylsilanylethynyl-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 0.189 mmol | C(C)OC(=O)C=1C(=C2C(=C(N1)C#C[Si](C)(C)C)SN=C2C2=CC=C(C=C2)Cl)O | C20H19ClN2O3SSi
reactant | Cs2CO3 | 0.227 mmol | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | EtOH CH2Cl2 | 0.76 mL | CCO.C(Cl)Cl
product | 3-(4-Chloro-phenyl)-7-ethynyl-4-hydroxy-isothiazolo[5,4-c]pyridine-5-carboxylic acid ethyl ester | 38 mg | C(C)OC(=O)C=1C(=C2C(=C(N1)C#C)SN=C2C2=CC=C(C=C2)Cl)O | C17H11ClN2O3S
